US06586429B2
A 10% aqueous sodium hydroxide solution (10 ml) was added to a suspension of 3-methylxanthine (4.15 g) in methanol (25 ml) and the mixture was stirred for 1 hour at 70° C. Benzyl bromide (4.275 g, 2.97 ml) was added dropwise at 70° C. and the mixture was stirred at 70-80° C. for an additional 5 hours. After cooling to room temperature, the mixture was treated with water (50 ml). The precipitate was filtered, dissolved in 1 N aqueous sodium hydroxide solution (50 ml) and the solution was acidified to pH 4-5 with concentrated hydrochloric acid. The precipitate was filtered and washed with water (3×20 ml) to provide 7-benzyl-3-methylxanthine (4.45 g).

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | 3-methylxanthine | 4.15 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | Benzyl bromide | 2.97 ml, 4.275 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 7-benzyl-3-methylxanthine | 4.45 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
